US07977344B2
4-(Tetrahydro-2H-pyran-3-yl)butyl methanesulfonate
To a solution of 4-(tetrahydro-2H-pyran-3-yl)-1-butanol (1.20 g) in dry dichloromethane (30.3 ml), cooled to 0° C., was added triethylamine (2.43 ml) and methanesulphonyl chloride (0.77 ml) to give a yellow solution. The reaction mixture was stirred at room temperature overnight. The reaction mixture was washed with a saturated aqueous solution of sodium hydrogen carbonate (25 ml). The organic layer was separated, dried by passing through a hydrophobic frit and concentrated in vacuo to afford a yellow oil (1.80 g). The product was purified by silica chromatography using a gradient elution of 0-40% ethyl acetate/cyclohexane to afford the title compound as a yellow oil (1.58 g).

reactant | 4-(tetrahydro-2H-pyran-3-yl)-1-butanol | 1.20 g | O1CC(CCC1)CCCCO | C9H18O2
reactant | triethylamine | 2.43 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulphonyl chloride | 0.77 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 30.3 ml | ClCCl | CH2Cl2
product | 4-(Tetrahydro-2H-pyran-3-yl)butyl methanesulfonate | 1.80 g | CS(=O)(=O)OCCCCC1COCCC1 | C10H20O4S
